US07538931B2
Hdv=8-Methyl-3,4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazole
To a flask were added 2 g 2-mercapto-5-methylbenzimidazole, 4.2 g potassium carbonate, 4.0 g 1,3-diiodopropane and 60 ml N,N-dimethylformamide. The mixture was heated to 50 C under nitrogen for 5 hours and then cooled to 22 C. The reaction was quenched with 100 ml water and the product was extracted twice with ethyl acetate and washed twice with water. Following removal of the solvent, the product was recrystallized by dissolving in a hot mixture of 50 ml hexane with 10 ml 2-propanol. After cooling to 5 C, the product was filtered, washed with hexane and dried giving 0.63 g of an off-white solid.

reactant | 2-mercapto-5-methylbenzimidazole | 2 g | SC=1NC2=C(N1)C=CC(=C2)C | C8H8N2S
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-diiodopropane | 4.0 g | ICCCI | C3H6I2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 8-Methyl-3,4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazole | 0.63 g | CC1=CC2=C(N3C(=N2)SCCC3)C=C1 | C11H12N2S
